US04060528
To a stirred and cooled solution of 43.7 parts of p-(1-hydroxyethyl)phenyl 2-thienyl ketone in 180 parts of dry benzene are added dropwise 16 parts of thionyl chloride. Upon completion, stirring is continued overnight at room temperature. The reaction mixture is evaporated. The residue is taken up in toluene and the latter is evaporated once more. The latter residue is distilled and the distillate is crystallized from ethanol at room temperature, yielding p-(1-chloroethyl)phenyl 2-thienyl ketone; mp. 60° C.

reactant | p-(1-hydroxyethyl)phenyl 2-thienyl ketone | S1C(=CC=C1)C(=O)C1=CC=C(C=C1)C(C)O | C13H12O2S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | C1=CC=CC=C1 | C6H6
product | p-(1-chloroethyl)phenyl 2-thienyl ketone | S1C(=CC=C1)C(=O)C1=CC=C(C=C1)C(C)Cl | C13H11ClOS
